US04113733
Making of 2-chloroethylideneaminocarbamic acid ethylester
550 g (3.5 mol) of a 50% aqueous solution of chloroacetaldehyde were diluted with 3000 ml water and were reacted with 10 g Celite 545 in order to react with the precipitating resin. For this purpose the solution was passed through a fluted filter into a three times tubulated round bottom flask of 6 l contents which was provided with a stirrer and thermometer. While cooling with ice a solution of 364 g (3.5 mol) of hydrazinoformicacid ethylester in 360 ml water was added during a period of 15 min. The temperature within the reaction vessel was maintained at between 0° and 5° C. There formed immediately a thick white crystal slurry. Stirring was continued at room temperature for 30 minutes. The crystals were then removed by suction, were washed neutral with about 6 liters water and were dried in a vacuum at 30° C. until the weight remained constant.

reactant | chloroacetaldehyde | ClCC=O | C2H3ClO
reactant | Celite 545 | 10 g | O=[Si]=O | O2Si
reactant | hydrazinoformicacid ethylester | 3.5 mol, 364 g | C(C)OC(=O)NN | C3H8N2O2
solvent | water | 3000 ml | O | H2O
solvent | water | 360 ml | O | H2O
product | 2-chloroethylideneaminocarbamic acid ethylester | C(C)OC(NN=CCCl)=O | C5H9ClN2O2
